US07071175B1
Triethyl amine (32 μl; 0.23 mmol) was added to a solution of 2-(2-tert-butoxycarbonyl-amino-thiazol-5-ylmethyl)-acrylic acid ethyl ester (67 mg; 0.21 mmol) in thioacetic acid (0.4 mL) at 0° C. The reaction mixture was stirred at room temperature for 48 hours, and then poured onto ice-water. The aqueous layer was extracted with CH2Cl2. The combined organic phases were washed with saturated NaHCO3, dried and concentrated to yield 190 mg of the crude product. The crude product was purified by flash chromatography (Heptane/EtOAc: 1:0→68:32) to yield 2-acetylsulfanylmethyl-3-(2-tert-butoxycarbonyl-amino-thiazol-5-yl)-propionic acid ethyl ester (43 mg, 51.6%).

reactant | Triethyl amine | 0.23 mmol, 32 μl | C(C)N(CC)CC | C6H15N
reactant | 2-(2-tert-butoxycarbonyl-amino-thiazol-5-ylmethyl)-acrylic acid ethyl ester | 0.21 mmol, 67 mg | C(C)OC(C(=C)C(C1=CN=C(S1)C(=O)OC(C)(C)C)N)=O | C14H20N2O4S
reactant | thioacetic acid | 0.4 mL | C(C)(=S)O | C2H4OS
product | 2-acetylsulfanylmethyl-3-(2-tert-butoxycarbonyl-amino-thiazol-5-yl)-propionic acid ethyl ester | 43 mg, 51.6% | C(C)OC(C(CC1=C(N=C(S1)C(=O)OC(C)(C)C)N)CSC(C)=O)=O | C16H24N2O5S2
